US04331678
To a stirred solution of 4,4-dimethyl-1,1-bis(methylthio)-1-penten-3-one (18.4 g) in ethanol, was added dropwise with stirring hydrazine hydrate (5.3 g), keeping the temperature below 25°. The reaction mixture was stirred briefly at room temperature, then refluxed for 2 hours. Evaporation of the solvent, and trituration with ether, afforded 3-t-butylpyrazole-5-thione (7.8 g, 20% yield), of melting point 147°-8°.

reactant | 4,4-dimethyl-1,1-bis(methylthio)-1-penten-3-one | 18.4 g | CC(C(C=C(SC)SC)=O)(C)C | C9H16OS2
reactant | hydrazine hydrate | 5.3 g | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 3-t-butylpyrazole-5-thione | 7.8 g, 20% yield | C(C)(C)(C)C=1N=NC(C1)=S | C7H10N2S
